US05045552
A mixture comprising 0.60 g of 2,3-dimethyl-4-(2-pyridylmethoxyethoxy)pyridine N-oxide and acetic anhydride was stirred at 100° C. for 0.5 hour and cooled, followed by the addition of 40 ml of ethanol. The obtained mixture was stirred at a room temperature for 0.5 hour and distilled to remove the solvent. The residue was dried in a vacuum to obtain 0.47 g of crude 2-acetoxymethyl-3-methyl-4-(2-pyridylmethoxyethoxy)pyridine as an oil.

reactant | 2,3-dimethyl-4-(2-pyridylmethoxyethoxy)pyridine N-oxide | 0.60 g | CC1=[N+](C=CC(=C1C)OCCOCC1=NC=CC=C1)[O-] | C15H18N2O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-acetoxymethyl-3-methyl-4-(2-pyridylmethoxyethoxy)pyridine | 0.47 g | C(C)(=O)OCC1=NC=CC(=C1C)OCCOCC1=NC=CC=C1 | C17H20N2O4
